US08609653B2
methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate
A mixture of methyl 2-(4-(chroman-6-yl)-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate (784 mg, 1.638 mmol) in t-Butyl acetate (36 mL) was treated with perchloric acid (0.394 mL, 6.55 mmol) and then stirred at ambient temperature for 40 minutes. The mixture was quenched by adding 15% NaOH and then stirred for 10 minutes. The mixture was extracted with ethyl acetate. The combined extracts were washed with brine, dried over sodium sulfate, filtered and concentrated to afford a pale yellow residue: 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.30 (dd, J=2.0, 8.4 Hz, 1 H), 7.23-7.06 (m, 3 H), 7.06-6.95 (m, 2 H), 6.90 (dd, J=5.3, 8.4 Hz, 1 H), 6.20 (dd, J=3.5, 10.0 Hz, 1 H), 5.52-5.34 (m, 3 H), 4.28 (t, J=5.2 Hz, 2 H), 3.76 (d, J=5.5 Hz, 3 H), 2.93-2.74 (m, 2 H), 2.71 (d, J=2.7 Hz, 3 H), 2.15-1.96 (m, 2 H), 0.94 (d, J=2.1 Hz, 9 H); LC/MS (m/z) ES+=535 (M+1).

reactant | methyl 2-(4-(chroman-6-yl)-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-hydroxyacetate | 1.638 mmol, 784 mg | O1CCCC2=CC(=CC=C12)C1=C2C(=NC(=C1C(C(=O)OC)O)C)N(C=C2)CC2=CC(=C(C=C2)F)F | C27H24F2N2O4
reactant | perchloric acid | 6.55 mmol, 0.394 mL | Cl(=O)(=O)(=O)O | ClHO4
solvent | t-Butyl acetate | 36 mL | C(C)(=O)OC(C)(C)C | C6H12O2
product | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(3,4-difluorobenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC(=C(C=C2)F)F)C=2C=C1CCCOC1=CC2 | C31H32F2N2O4
